US05637718
(a) N-(2-Methylpropyl)-3,3-dimethylglutarimide
Isobutylamine (7.3 g, 0.1 mol) was added slowly to 3,3-dimethylglutaric anhydride (14.2 g, 0.1 mol) stirring at room temperature in a two neck round bottom flask fitted with a water condenser. After 30 minutes, acetic anhydride (20.4 g, 0.2 mol) was added, and the resulting mixture was boiled for two hours. After cooling, the mixture was poured slowly on to an aqueous NaOH solution (2N, 100 ml) stirring at room temperature. After one hour, the mixture was diluted with diethyl ether (50 ml), and the organic layer was separated. The aqueous layer was washed with more diethyl ether (2×50 ml), and the combined organic layer dried and concentrated to give the title compound as a pale yellow oil which solidified on standing, m.p. 48°-52° C., yield 18.5 g (94%). The product was suffuciently pure by NMR spectroscopy to be used directly in the following procedure.

reactant | Isobutylamine | 0.1 mol, 7.3 g | C(C(C)C)N | C4H11N
reactant | 3,3-dimethylglutaric anhydride | 0.1 mol, 14.2 g | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | acetic anhydride | 0.2 mol, 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 2N, 100 ml | [OH-].[Na+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | N-(2-Methylpropyl)-3,3-dimethylglutarimide | CC(CN1C(CC(CC1=O)(C)C)=O)C | C11H19NO2
